US07759337B2
Step 2. 4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide
Into a 100-mL flask under argon were added 3-bromo-4-methylbenzenesulfonamide (900 mg, 3.6 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (263 mg, 0.36 mmol), bis(pinacolato)diboron (1.371 g, 5.4 mmol), and 1,4-dioxane (18 mL), followed by potassium acetate (1.77 g, 18 mmol). The reaction was heated at 80° C. for 4 h. The cooled reaction was diluted with CH2Cl2 and washed with saturated aqueous NaHCO3 solution and brine; dried (MgSO4). After filtering via a pad of Celite®, the filtrate was concentrated in vacuo and purified by CombiFlash (25% to 50% ethyl acetate in Hexane) to afford the title compound as a white solid. Found MS (ES+): 298.1 (M+H)+.

reactant | 3-bromo-4-methylbenzenesulfonamide | 3.6 mmol, 900 mg | BrC=1C=C(C=CC1C)S(=O)(=O)N | C7H8BrNO2S
reactant | bis(pinacolato)diboron | 5.4 mmol, 1.371 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
reactant | potassium acetate | 18 mmol, 1.77 g | C(C)(=O)[O-].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.36 mmol, 263 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | CC1=C(C=C(C=C1)S(=O)(=O)N)B1OC(C(O1)(C)C)(C)C | C13H20BNO4S
